US07618990B2
(4S)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(fluoromethyl)-1,3-oxazolidin-2-one
(4R)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(hydroxymethyl)-1,3-oxazolidin-2-one (0.71 g, 2.0 mmol), prepared in Example 71, was dissolved in 20 mL methylene chloride and cooled to 0° C. (Diethylamino)sulfur trifluoride (0.295 mL, 2.20 mmol) was added dropwise. The mixture was warmed to 25° C. and stirred for 2.5 h. The reaction was quenched with water and saturated NaHCO3 and the mixture was extracted with methylene chloride. The organics were combined and washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. Flash chromatography (8% acetone/hexane) afforded the title compound (243 mg, 34%) as a white solid. mp 148-150° C. HRMS: calcd for C13H10BrFN2O2S+H+, 356.97031; found (ESI, [M+H]+), 356.9705. Analytical HPLC: retention time 10.2 min, 210-370 nm the Xterra® RP18 column, 3.5μ, 150×4.6 mm 40° C. 85/15-5/95 (Ammon. Form. Buff. pH 3.5/ACN+MeOH) for 10 min, hold 4 min, 1.2 mL/min 5 μL injection.

reactant | (4R)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(hydroxymethyl)-1,3-oxazolidin-2-one | 2.0 mmol, 0.71 g | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OC[C@H]1CO)=O | C13H11BrN2O3S
reactant | (Diethylamino)sulfur trifluoride | 2.20 mmol, 0.295 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (4S)-3-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-4-(fluoromethyl)-1,3-oxazolidin-2-one | 243 mg, 34% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C(OC[C@H]1CF)=O | C13H10BrFN2O2S
